US07371743B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(morpholin-3-on-4-yl)-benzamide
254 mg (1.15 mmol) 4-(morpholin-3-on-4-yl)-benzoic acid (prepared by synthesis sequence analogously to Example 30a, 2d and 21a) are placed in 5 ml DMF and 428 mg (1.0 mmol) PfTU and 514 μl (3.0 mmol) DIPEA are added. After stirring at ambient temperature for 10 minutes 232 mg (1.0 mmol) (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine-hydrochloride are added and the mixture is stirred for 16 hours at ambient temperature. Then the reaction mixture is filtered through basic aluminium oxide and evaporated down i. vac. The residue is purified by chromatography on silica gel (eluting gradient: dichloromethane/methanol 100:0->90:10), the corresponding fractions are evaporated down i. vac., the residue is dissolved in acetonitrile/water and lyophilised.

reactant | 4-(morpholin-3-on-4-yl)-benzoic acid | 1.15 mmol, 254 mg | N1(C(COCC1)=O)C1=CC=C(C(=O)O)C=C1 | C11H11NO4
reactant | DIPEA | 3.0 mmol, 514 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine-hydrochloride | 1.0 mmol, 232 mg | Cl.ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(morpholin-3-on-4-yl)-benzamide | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC=C(C=C2)N2C(COCC2)=O)=O)C=C1 | C20H19ClN4O3
